US06174885B1
[6-[[(2-Piperidinoethyl)amino]carbonyl]-3-cyclohexenyl]methyl N-octadecylcarbamate hydrochloride (Compound 12)
4N Hydrochloric acid/ethyl acetate solution (1.30 ml) was added to a solution of [6-[[(2-piperidinoethyl)amino]carbonyl]-3-cyclohexenyl]methyl N-octadecylcarbamate (2.431 g) in ethyl acetate (50 ml). After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with methanol-isopropyl ether mixed solution, thereby yielding the entitled compound (2.407 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.30 ml | Cl.C(C)(=O)OCC
reactant | [6-[[(2-piperidinoethyl)amino]carbonyl]-3-cyclohexenyl]methyl N-octadecylcarbamate | 2.431 g | C(CCCCCCCCCCCCCCCCC)NC(OCC1CC=CCC1C(=O)NCCN1CCCCC1)=O | C34H63N3O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | [6-[[(2-Piperidinoethyl)amino]carbonyl]-3-cyclohexenyl]methyl N-octadecylcarbamate hydrochloride | 2.407 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(OCC1CC=CCC1C(=O)NCCN1CCCCC1)=O | InChI=1S/C34H63N3O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-25-36-34(39)40-30-31-23-18-19-24-32(31)33(38)35-26-29-37-27-21-17-22-28-37;/h18-19,31-32H,2-17,20-30H2,1H3,(H,35,38)(H,36,39);1H
